US04020082
2-n-butylaminomethyl-4,5-diphenyloxazole hydrochloride
A solution of 8 g. 2-chloromethyl-4,5-diphenyl-oxazole (prepared as described in Example 1 a) and 6.6 g. n-butylamine in 100 ml. anhydrous benzene was refluxed for 4 hours. The reaction mixture was washed with water and the separated benzene phase was distilled at 20 mm. pressure. The oily residue was dissolved in 100 ml. anhydrous ether and a flow of gas hydrogen chloride was bubbled through the resulting solution. The 2-n-butylaminomethyl-4,5-diphenyloxazole hydrochloride was recrystallized from absolute ethanol/anhydrous diethyl ether: 7.4 g., m.p. 120°-123° C (yield 72%).

reactant | 2-chloromethyl-4,5-diphenyl-oxazole | ClCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12ClNO
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-n-butylaminomethyl-4,5-diphenyloxazole hydrochloride | yield 72% | Cl.C(CCC)NCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H22N2O.ClH/c1-2-3-14-21-15-18-22-19(16-10-6-4-7-11-16)20(23-18)17-12-8-5-9-13-17;/h4-13,21H,2-3,14-15H2,1H3;1H
